************************************************************************
* auCdl Netlist:
* 
* Library Name:  391_Project
* Top Cell Name: CALC
* View Name:     schematic
* Netlisted on:  Mar 10 21:41:44 2013
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL gnd!
+        vdd!

*.PIN gnd!
*+    vdd!

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    NAND
* View Name:    schematic
************************************************************************

.SUBCKT NAND A B GND Output VDD
*.PININFO A:I B:I GND:I VDD:I Output:O
MM2 Output B VDD VDD PMOS_VTG W=1.44u L=50n m=1
MM0 Output A VDD VDD PMOS_VTG W=1.44u L=50n m=1
MM3 net17 B GND GND NMOS_VTG W=1.63u L=50n m=1
MM1 Output A net17 GND NMOS_VTG W=1.63u L=50n m=1
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    INVERTER
* View Name:    schematic
************************************************************************

.SUBCKT INVERTER GND Input Output VDD
*.PININFO GND:I Input:I VDD:I Output:O
MM0 Output Input GND GND NMOS_VTG W=1.44u L=50n m=1
MM1 Output Input VDD VDD PMOS_VTG W=1.96u L=50n m=1
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    DFF
* View Name:    schematic
************************************************************************

.SUBCKT DFF CLK D GND Q Qn VDD
*.PININFO CLK:I D:I GND:I VDD:I Q:O Qn:O
XI18 net25 net5 GND net3 VDD / NAND
XI17 net9 D GND net5 VDD / NAND
XI16 net14 CLK GND net9 VDD / NAND
XI15 net19 CLK GND net25 VDD / NAND
XI14 net5 net25 GND net19 VDD / NAND
XI13 Q net9 GND Qn VDD / NAND
XI12 net25 Qn GND Q VDD / NAND
XI19 GND net3 net14 VDD / INVERTER
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    MUX
* View Name:    schematic
************************************************************************

.SUBCKT MUX A B GND Output S VDD
*.PININFO A:I B:I GND:I S:I VDD:I Output:O
XI5 A net9 GND net7 VDD / NAND
XI7 net7 net4 GND Output VDD / NAND
XI6 S B GND net4 VDD / NAND
XI8 GND S net9 VDD / INVERTER
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    INPUT
* View Name:    schematic
************************************************************************

.SUBCKT INPUT A0 A0N A1 A1N A2 A2N A3 A3N B0 B00 B0N B1 B1N B2 B2N B3 B3N B10 
+ B20 B30 CLK GND I0 I1 I2 I3 O0 O1 O2 O3 S0 S00 S0N S1 S1N S2 S10 VDD
*.PININFO B00:I B10:I B20:I B30:I CLK:I GND:I I0:I I1:I I2:I I3:I O0:I O1:I 
*.PININFO O2:I O3:I S00:I S2:I S10:I VDD:I A0:O A0N:O A1:O A1N:O A2:O A2N:O 
*.PININFO A3:O A3N:O B0:O B0N:O B1:O B1N:O B2:O B2N:O B3:O B3N:O S0:O S0N:O 
*.PININFO S1:O S1N:O
XI21 CLK net82 GND A3 A3N VDD / DFF
XI20 CLK net80 GND A2 A2N VDD / DFF
XI19 CLK net79 GND A1 A1N VDD / DFF
XI18 CLK net81 GND A0 A0N VDD / DFF
XI17 CLK B30 GND B3 B3N VDD / DFF
XI16 CLK B20 GND B2 B2N VDD / DFF
XI15 CLK B10 GND B1 B1N VDD / DFF
XI14 CLK B00 GND B0 B0N VDD / DFF
XI13 CLK S10 GND S1 S1N VDD / DFF
XI12 CLK S00 GND S0 S0N VDD / DFF
XI26 O3 I3 GND net82 S2 VDD / MUX
XI25 O2 I2 GND net80 S2 VDD / MUX
XI24 O1 I1 GND net79 S2 VDD / MUX
XI23 O0 I0 GND net81 S2 VDD / MUX
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    XOR
* View Name:    schematic
************************************************************************

.SUBCKT XOR A B GND Output VDD
*.PININFO A:I B:I GND:I VDD:I Output:O
XI5 A net9 GND net7 VDD / NAND
XI7 net7 net4 GND Output VDD / NAND
XI6 B net015 GND net4 VDD / NAND
XI17 GND A net015 VDD / INVERTER
XI8 GND B net9 VDD / INVERTER
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    NOR
* View Name:    schematic
************************************************************************

.SUBCKT NOR A B GND Output VDD
*.PININFO A:I B:I GND:I VDD:I Output:O
MM3 Output B GND GND NMOS_VTG W=720.0n L=50n m=1
MM0 Output A GND GND NMOS_VTG W=720.0n L=50n m=1
MM2 net14 B VDD VDD PMOS_VTG W=1.56u L=50n m=1
MM1 Output A net14 VDD PMOS_VTG W=1.56u L=50n m=1
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    FA
* View Name:    schematic
************************************************************************

.SUBCKT FA A B Cin Cout GND S VDD
*.PININFO A:I B:I Cin:I GND:I VDD:I Cout:O S:O
XI3 net14 Cin GND S VDD / XOR
XI2 A B GND net14 VDD / XOR
XI6 net14 Cin GND net16 VDD / NAND
XI5 net16 net15 GND Cout VDD / NAND
XI4 A B GND net15 VDD / NAND
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    ADD1
* View Name:    schematic
************************************************************************

.SUBCKT ADD1 A0N A1 B0 B0N B1 C1 GND S0 VDD X1
*.PININFO A0N:I A1:I B0:I B0N:I B1:I GND:I S0:I VDD:I C1:O X1:O
XI0 A0N B0N GND net18 VDD / NOR
XI1 B1 net15 GND net17 S0 VDD / MUX
XI2 net17 A1 net18 C1 GND X1 VDD / FA
XI3 B1 B0 GND net15 VDD / XOR
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    ADD2
* View Name:    schematic
************************************************************************

.SUBCKT ADD2 A2 B0 B1 B2 B2N C1 C2 GND S0 VDD X2
*.PININFO A2:I B0:I B1:I B2:I B2N:I C1:I GND:I S0:I VDD:I C2:O X2:O
XI0 net24 A2 C1 C2 GND X2 VDD / FA
XI1 B2 net22 GND net24 S0 VDD / MUX
XI2 net21 B2N GND net22 VDD / XOR
XI3 B0 B1 GND net21 VDD / NOR
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    ADD3
* View Name:    schematic
************************************************************************

.SUBCKT ADD3 A3 B0 B1 B2 B3 B3N C2 GND S0 VDD X3
*.PININFO A3:I B0:I B1:I B2:I B3:I B3N:I C2:I GND:I S0:I VDD:I X3:O
XI4 B3N net22 GND net30 VDD / XOR
XI2 A3 net25 GND net28 VDD / XOR
XI0 C2 net28 GND X3 VDD / XOR
XI3 B3 net30 GND net25 S0 VDD / MUX
XI7 B1 B0 GND net29 VDD / NOR
XI5 B2 net20 GND net22 VDD / NOR
XI6 GND net29 net20 VDD / INVERTER
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    ADDER
* View Name:    schematic
************************************************************************

.SUBCKT ADDER A0 A0N A1 A2 A3 B0 B0N B1 B2 B2N B3 B3N GND S0 VDD X0 X1 X2 X3
*.PININFO A0:I A0N:I A1:I A2:I A3:I B0:I B0N:I B1:I B2:I B2N:I B3:I B3N:I 
*.PININFO GND:I S0:I VDD:I X0:O X1:O X2:O X3:O
XI0 A0 B0 GND X0 VDD / XOR
XI1 A0N A1 B0 B0N B1 net40 GND S0 VDD X1 / ADD1
XI2 A2 B0 B1 B2 B2N net40 net41 GND S0 VDD X2 / ADD2
XI3 A3 B0 B1 B2 B3 B3N net41 GND S0 VDD X3 / ADD3
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    MULT
* View Name:    schematic
************************************************************************

.SUBCKT MULT A0 A1 A2 A3 B1 B2 B3N GND S0 S0N VDD Y0 Y1 Y2 Y3
*.PININFO A0:I A1:I A2:I A3:I B1:I B2:I B3N:I GND:I S0:I S0N:I VDD:I Y0:O Y1:O 
*.PININFO Y2:O Y3:O
XI11 A2 A1 GND net61 B2 VDD / MUX
XI10 A0 GND GND net60 S0 VDD / MUX
XI9 net61 net60 GND Y3 net51 VDD / MUX
XI8 net65 net66 GND Y0 net52 VDD / MUX
XI7 GND A3 GND net66 S0 VDD / MUX
XI6 A1 A2 GND net65 B2 VDD / MUX
XI5 net63 net70 GND Y1 B1 VDD / MUX
XI4 A0 A2 GND net70 S0 VDD / MUX
XI3 A3 GND GND net63 net52 VDD / MUX
XI2 A1 A3 GND net69 S0 VDD / MUX
XI1 net62 net69 GND Y2 B1 VDD / MUX
XI0 A0 GND GND net62 net51 VDD / MUX
XI13 B3N S0 GND net52 VDD / NAND
XI12 S0N B3N GND net51 VDD / NAND
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    OUTPUT
* View Name:    schematic
************************************************************************

.SUBCKT OUTPUT GND O0 O1 O2 O3 S1 VDD X0 X1 X2 X3 Y0 Y1 Y2 Y3
*.PININFO GND:I S1:I VDD:I X0:I X1:I X2:I X3:I Y0:I Y1:I Y2:I Y3:I O0:O O1:O 
*.PININFO O2:O O3:O
XI3 X2 Y2 GND O2 S1 VDD / MUX
XI2 X3 Y3 GND O3 S1 VDD / MUX
XI1 X1 Y1 GND O1 S1 VDD / MUX
XI0 X0 Y0 GND O0 S1 VDD / MUX
.ENDS

************************************************************************
* Library Name: 391_Project
* Cell Name:    CALC
* View Name:    schematic
************************************************************************

.SUBCKT CALC B00 B10 B20 B30 CLK I0 I1 I2 I3 O0 O1 O2 O3 S00 S2 S10
*.PININFO B00:I B10:I B20:I B30:I CLK:I I0:I I1:I I2:I I3:I S00:I S2:I S10:I 
*.PININFO O0:O O1:O O2:O O3:O
XINPUT1 O0 net63 O1 net78 O2 net79 O3 net80 net65 B00 net66 net36 net81 net35 
+ net67 net68 net34 B10 B20 B30 CLK gnd! I0 I1 I2 I3 net034 net036 net038 
+ net039 net33 S00 net56 net69 net82 S2 S10 vdd! / INPUT
XADDER1 O0 net63 O1 O2 O3 net65 net66 net36 net35 net67 net68 net34 gnd! net33 
+ vdd! net77 net75 net73 net71 / ADDER
XMULT1 O0 O1 O2 O3 net36 net35 net34 gnd! net33 net56 vdd! net70 net72 net74 
+ net76 / MULT
XOUTPUT1 gnd! net034 net036 net038 net039 net69 vdd! net77 net75 net73 net71 
+ net70 net72 net74 net76 / OUTPUT
.ENDS

